US05200110
On an ice water bath, 108 g (0.49 mol) of 4-bromobenzoic acid chloride was added drop-wise over 30 minutes to 330 cm3 (4.9 mol) of concentrated aqueous ammonia while vigorously stirring. The resultant crystals were filtered out, washed with water and recrystallized from acetone to yield 88 g (0.44 mol) of 4-bromobenzoic acid amide.

reactant | 4-bromobenzoic acid chloride | 0.49 mol, 108 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | ammonia | 4.9 mol | N | H3N
product | 4-bromobenzoic acid amide | 0.44 mol, 88 g | BrC1=CC=C(C(=O)N)C=C1 | C7H6BrNO
